US07655657B2
2-(1H-Inden-5-yl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane
5-Bromo-1H-indene (Maybridge, 1.0 g, 5.1 mmol) was coupled with bis(pinacolato)diboron (Aldrich, 1.6 g, 6.3 mmol) according to the procedure of Example 26A. The title compound was purified by chromatography (120 g SiO2, hexane:EtOAc, 40:60, Rf. 0.9) as a solid (0.70 g, yield, 57%). 1H NMR (300 MHz, CDCl3) δ 1.35 (s, 12H), 3.40 (s, 2H), 6.50-7.89 (m, 5H) ppm. MS (DCI/NH3): 260 (M+NH4)+.

reactant | 5-Bromo-1H-indene | 5.1 mmol, 1.0 g | BrC=1C=C2C=CCC2=CC1 | C9H7Br
reactant | bis(pinacolato)diboron | 6.3 mmol, 1.6 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | 2-(1H-Inden-5-yl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | C1C=CC2=CC(=CC=C12)B1OC(C(O1)(C)C)(C)C | C15H19BO2
